US09145413B2
a. 3-(5-Amino-3-tert-butyl-pyrazol-1-yl-phenol (Intermediate 95a)
A mixture of 5-tert-butyl-2H-pyrazol-3-ylamine (1 g, 7.18 mmol), 3-iodophenol (1.7 4 g, 7.90 mmol), copper (I) iodide (68 mg, 0.36 mmol), (1S,2S)—N,N′-dimethyl cyclohexane-1,2-diamine (204 mg, 1.44 mmol) and potassium carbonate (2.08 g, 15.09 mmol) in toluene (8 mL) was de-gassed and flushed with argon (3×). The reaction mixture was then treated with microwave irradiation, at 150° C. for 1 h. The mixture was diluted with EtOAc (20 mL) and washed with water (20 mL). The aqueous layer was extracted with a further 20 mL EtOAc and the combined organic layers were washed with brine (20 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue obtained was purified by FCC, using 0-100% EtOAc in cyclohexane to afford the title compound as a brown gum (1.42 g, 86%). LCMS (Method 3): Rt 2.21 min, m/z 232 [MH+].

reactant | 5-tert-butyl-2H-pyrazol-3-ylamine | 7.18 mmol, 1 g | C(C)(C)(C)C=1C=C(NN1)N | C7H13N3
reactant | 3-iodophenol | 7.90 mmol, 4 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | (1S,2S)—N,N′-dimethyl cyclohexane-1,2-diamine | 1.44 mmol, 204 mg | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | potassium carbonate | 15.09 mmol, 2.08 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper (I) iodide | 0.36 mmol, 68 mg | [Cu]I
product | 5-Amino-3-tert-butyl-pyrazol-1-yl-phenol | 1.42 g, 86% | NC1=CC(=NN1C1=C(C=CC=C1)O)C(C)(C)C | C13H17N3O
